US08563575B2
To a solution of N-[4-(benzyloxy)phenyl]-5-methyl-3-nitropyridin-2-amine (1.33 g) in acetic acid (10 mL) and THF (10 mL) was added zinc (2.59 g) at 0° C., and the mixture was stirred at 0° C. for 2 h. After stirring at room temperature overnight, the mixture was filtered and the filtrate was concentrated in vacuo. The residue was diluted with AcOEt, washed with sat. NaHCO3, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 5%-50% AcOEt in hexane) to give N2-[4-(benzyloxy)phenyl]-5-methylpyridine-2,3-diamine (0.63 g) as a blue solid.

reactant | N-[4-(benzyloxy)phenyl]-5-methyl-3-nitropyridin-2-amine | 1.33 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=C(C=C1[N+](=O)[O-])C | C19H17N3O3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | zinc | 2.59 g | [Zn] | Zn
product | N2-[4-(benzyloxy)phenyl]-5-methylpyridine-2,3-diamine | 0.63 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=C(C=C1N)C | C19H19N3O
